US06552215B1
(Not According to the Invention) Preparation of 2,2-bis(2-Ethylhexanoylperoxy)4-methyl Pentane
Into a 200 ml beaker were charged 12 g of methylisobutyl ketone peroxide in water (containing 0.0533 mole T4 and 0.0008 mole T3), 25 g of petroleum ether (boiling range 40-60° C.), 12.5 g of NaCl-25%, and 10 g of demi-water. The pH was adjusted with KOH-45% to 13.5 at a temperature of 5-8° C. Then 19.1 g (0.117 mole; 2.2 eq.) of 2-ethylhexanoyl chloride were dosed in 25 minutes simultaneously with the lye, with the pH kept at >13.5. The mixture was stirred for another 90 minutes at 2-4° C. After separation of the water, layer 25 g of isododecane were added, and the organic layer was washed with NaOH-4N and NaHCO3-6%. The product was dried over magnesium sulphate and evaporated. Yield: 42.3 g of product with an active oxygen content of 3.22% (chemical yield:80%). Ratio mono:bis=20:80.

reactant | NaCl | 12.5 g | [Na+].[Cl-]
reactant | KOH | [OH-].[K+]
reactant | 2-ethylhexanoyl chloride | 0.117 mole, 19.1 g, 2.2 eq. | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | water | O | H2O
reactant | water | 0.0533 mole | O | H2O
product | 2,2-bis(2-Ethylhexanoylperoxy)4-methyl Pentane | yield:80% | C(C)C(C(=O)OOC(C)(CC(C)C)OOC(C(CCCC)CC)=O)CCCC | C22H42O6
